* CT front-end: Ipri_pk=87.4 A, 1:100, 0.82 ohm, 140000 Hz
VAV avmid 0 1.65
ICT avmid b SIN(0 0.8740000000000001 140000)
RB b avmid 0.82
RF b adc 1k
CF adc avmid 220p
VDD vdd 0 3.3
DP adc vdd DCLMP
DN 0 adc DCLMP
.model DCLMP D(Is=1e-9 N=1.05 Rs=1)
.tran 2e-8 0.0002 0 1e-8 uic
.option method=gear reltol=1e-4 abstol=1e-9
.control
set filetype=ascii
run
wrdata ctfe-res-40kw-nominal-peak.out v(adc) v(b)
quit
.endc
.end